US04214093
A 0.8-g portion of the p-methoxyphenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate obtained above was catalytically reduced with 5% palladium-carbon in acetic acid. After removal of the catalyst by filtration, the acetic acid was removed by distillation under reduced pressure to obtain p-methoxyphenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate, which was then dissolved in diethyl ether, and dry gaseous hydrogen chloride was introduced into the resulting solution to obtain 520 mg of p-methoxyphenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate hydrochloride, m.p. 155°-156° C.

reactant | p-methoxyphenyl 7-nitro-1,2,3,4-tetrahydro-1-naphthoate | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=C(C=C1)OC | C18H17NO5
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
product | p-methoxyphenyl 7-amino-1,2,3,4-tetrahydro-1-naphthoate | NC1=CC=C2CCCC(C2=C1)C(=O)OC1=CC=C(C=C1)OC | C18H19NO3
